data/mechanisms/records/IMS8-EQ8.88b.json
{"mechanism_id": "IMS8-EQ8.88b", "species": [{"species_id": "aminoalcohol_N_ionized_molecular_ion", "mapped_smiles": "[OH:1][CH2:2][CH2:3][CH2:4][CH:5]([1H:10])[CH2:6][CH2:7][CH2:8][NH2+:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_ammonium_carbon_radical", "mapped_smiles": "[OH:1][CH2:2][CH2:3][CH2:4][CH:5][CH2:6][CH2:7][CH2:8][NH2+:9][1H:10]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["aminoalcohol_N_ionized_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["distonic_ammonium_carbon_radical"]}], "steps": [{"step_id": "step_rH_to_X", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [9]}, "target": {"type": "bond", "atom_maps": [9, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 10]}, "target": {"type": "bond", "atom_maps": [9, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 10]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_88b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_to_X", "support_type": "textbook_proposed", "locator": {"page": 202, "equation": "8.88", "figure": null, "panel": "lower 'rH' branch (dashed arcs, parenthesized (+.) at X)", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.75, "curator_note": "RE-ENCODED 2026-07-28. Through-space H rearrangement onto the ionized amine nitrogen N(9): the odd electron on that site pairs with one electron of the C(5)-H bond to form the new heteroatom-H bond, and the second C-H electron is left on C(5) as the new radical terminus. ARC COUNT: the book draws 2 single-barbed fishhooks on this branch - one from the '+.' on the heteroatom arcing toward the forming heteroatom...H region (= move <1>), one from the central C-H bond curling up to the same point (= move <2>) - and the third hook (move <3>, the other C-H electron onto C(5)) is an IMPLICIT homolysis hook required for electron balance, not drawn on the page. CORRECTION vs the previous version, which was judged unfaithful: it encoded only ONE move, a heavy-atom net electron relocation (9 -> 5) that transcribed NEITHER drawn arc, and justified the collapse by asserting that 'the migrating hydrogen cannot carry an atom map because RDKit folds a mapped explicit [H:n] into the heavy atom's implicit valence'. That justification is FALSE as stated: it holds for a bare [H:n], but the corpus's standard workaround is the ISOTOPE-TAGGED [1H:n], which RDKit keeps as a real mapped atom - it is used in 80 of the records, and IMS8-EQ8.19 encodes this very reaction type with the full three-hook flow via [1H:8]. The migrating hydrogen is therefore now carried explicitly as [1H:10] and the complete balanced three-move flow is encoded, matching IMS8-EQ8.19. Protium-1 is ordinary hydrogen, so no mass is altered. ms_context: p202 prints NO ionization conditions for Eq 8.88; ionization_method 'EI' / electron_energy_ev 70.0 are the book's STANDING convention applied as a chapter default, NOT data read off this page (disclosed here, as sibling IMS8-EQ8.89 does)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 131.1299, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_distonic_ammonium", "species_id": "distonic_ammonium_carbon_radical", "step_id": "step_rH_to_X", "observed_mz": 131.1299, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
